DAQHAT-01 internal link: power_00_request_0_arm_0_jtag_1
Vpi pi 0 0.0
Vfpga fpga 0 0.0
Vrequest request 0 0.0
Varm arm 0 0.0
Vselect select 0 0.0
Vsignal signal 0 3.3
Bapp appctrl 0 V=(v(pi)>3 && v(fpga)>3 && v(request)>2 && v(arm)>2 && v(select)<1) ? 1 : 0
Bjtag jtagctrl 0 V=(v(pi)>3 && v(fpga)>3 && v(request)>2 && v(arm)>2 && v(select)>2) ? 1 : 0
Sapp signal app appctrl 0 LINK
Sjtag signal jtag jtagctrl 0 LINK
.model LINK SW(Ron=10 Roff=1e12 Vt=.5 Vh=0)
Rapp app 0 100k
Rjtag jtag 0 100k
.tran 1u 10u
.measure tran app FIND v(app) AT=9u
.measure tran jtag FIND v(jtag) AT=9u
.end
